US04435419
4'-(3-Azabicyclo[3.1.0]hex-1-yl)-acetophenone hydrochloride
A 3 g. portion of 1-phenyl-3-azabicyclo[3.1.0]hexane hydrochloride is added to a cold (0° C.) mixture of 2.8 g. of acetyl chloride and 6.9 g. of aluminum chloride in 30 ml. of dichloromethane, and the reaction is stirred for 15 minutes. The mixture is then brought to room temperature, stirred overnight and carefully poured onto ice. This mixture is extracted twice with dichloromethane, and the extracts are combined, dried, filtered and concentrated to an oil. This oil is dissolved in a minimum of dichloromethane and treated with an excess of ether to give a solid which is collected, washed with ether and dried. Recrystallization from acetonitrile gives 500 mg. of the desired product, m.p. 195°-197° C.

reactant | 1-phenyl-3-azabicyclo[3.1.0]hexane hydrochloride | Cl.C1(=CC=CC=C1)C12CNCC2C1
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4'-(3-Azabicyclo[3.1.0]hex-1-yl)-acetophenone hydrochloride | Cl.C12(CNCC2C1)C1=CC=C(C=C1)C(C)=O | InChI=1S/C13H15NO.ClH/c1-9(15)10-2-4-11(5-3-10)13-6-12(13)7-14-8-13;/h2-5,12,14H,6-8H2,1H3;1H
